US04455422
2.0 Grams of 6-methylsulfonyloxy-7-[1-oxo-3-(4-phenyl-1-piperidyl)propyl]-3,4-dihydrocarbostyril and 0.5 g of palladium black were dispersed in 50 ml of ethanol and the mixture was catalytically reduced under 3 atmospheric pressure of hydrogen gas for 5 hours. The reaction mixture was filtered and the mother liquor was concentrated under a reduced pressure to obtain a residue. Then the residue was recrystallized from ethanol to obtain 1.1 g of 7-[1-oxo-3-(4-phenyl-1-piperidyl)-propyl]3,4-dihydrocarbostyril in colorless needle-like crystals.

reactant | 6-methylsulfonyloxy-7-[1-oxo-3-(4-phenyl-1-piperidyl)propyl]-3,4-dihydrocarbostyril | CS(=O)(=O)OC=1C=C2CCC(NC2=CC1C(CCN1CCC(CC1)C1=CC=CC=C1)=O)=O | C24H28N2O5S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium black | 0.5 g | [Pd] | Pd
product | 7-[1-oxo-3-(4-phenyl-1-piperidyl)-propyl]3,4-dihydrocarbostyril | 1.1 g | O=C(CCN1CCC(CC1)C1=CC=CC=C1)C1=CC=C2CCC(NC2=C1)=O | C23H26N2O2
